US07919496B2
Benzyl chloroformate (5.20 mL, 35.08 mmol) was added to a cooled (0° C.) solution of 5-nitro-1H-pyrazole-3-carboxylic acid methyl ester (5.400 g, 31.54 mmol) and triethylamine (7.40 mL, 53.08 mmol) in dichloromethane (60 mL), the reaction mixture was stirred at room temperature for 2 hours, then diluted with ether and washed with water and brine, dried over anhydrous MgSO4 and filtered. The organic solvent was removed in vacuo. The residue was purified column chromatography to give 5-nitropyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester (3.28 g, 34%). 1H NMR (300 MHz, CDCl3) δ 7.34 (s, 1H), 7.32-7.24 (m, 5H), 3.89 (s, 3H).

reactant | Benzyl chloroformate | 35.08 mmol, 5.20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 5-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 31.54 mmol, 5.400 g | COC(=O)C1=NNC(=C1)[N+](=O)[O-] | C5H5N3O4
reactant | triethylamine | 53.08 mmol, 7.40 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5-nitropyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester | 3.28 g, 34% | COC(=O)C1=NN(C(=C1)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1 | C13H11N3O6
